US06387938B1
Synthesis of 3-(2-(2-phenylethyl)benzimidazol-4-yl)-3-oxopropionitrile
Triethylamine (5.2 mL) and magnesium chloride (4.3 g) were added to dry acetonitrile (30 mL) solution of cyanoacetic acid (1.6 g), and the mixture was vigorously stirred at room temperature for 23 hours under an atmosphere of argon. Next, a catalytically effective amount of N,N-dimethylaminopyridine and 1,1′-carbonyldiimidazole (1.34 g) were added to anhydrous tetrahydrofuran (20 mL) suspension of 2-(2-phenylethyl)benzimidazole-4-carboxylic acid (2.0 g) obtained in Reference Example 3, and the mixture was stirred for 2.5 hours under an atmosphere of argon. The reaction solution was added to the previously prepared cyanoacetic acid suspension of magnesium salt while cooling in an ice bath, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with ice water (30 mL) and, at the same temperature, adjusted to pH 1 with 4 N hydrochloric acid. At the same temperature, this was adjusted to pH 9 with saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate. The organic layer was washed with water and brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) and the desired fraction was concentrated to obtain the title compound as colorless crystal (1.03 g).

reactant | magnesium chloride | 4.3 g | [Cl-].[Mg+2].[Cl-]
reactant | cyanoacetic acid | 1.6 g | C(#N)CC(=O)O | C3H3NO2
reactant | 1,1′-carbonyldiimidazole | 1.34 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(2-phenylethyl)benzimidazole-4-carboxylic acid | 2.0 g | C1(=CC=CC=C1)CCC=1NC2=C(N1)C=CC=C2C(=O)O | C16H14N2O2
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | Triethylamine | 5.2 mL | C(C)N(CC)CC | C6H15N
product | 3-(2-(2-phenylethyl)benzimidazol-4-yl)-3-oxopropionitrile | 1.03 g | C1(=CC=CC=C1)CCC=1NC2=C(N1)C=CC=C2C(CC#N)=O | C18H15N3O
